US08377949B2
(R)-2-[2,4-Dioxo-1-(1,4,6-trimethyl-1H-indol-3-ylmethyl)-1,4-dihydro-2H-quinazolin-3-yl]-pentanoic acid
To a solution of (R)-2-[2,4-dioxo-1-(1,4,6-trimethyl-1H-indol-3-ylmethyl)-1,4-dihydro-2H-quinazolin-3-yl]-pentanoic acid methyl ester (50 mg, 0.11 mmol) in 1,4-dioxane (10 mL) and water (2 mL) is added LiOH (5.4 mg, 0.22 mmol) at room temperature. The solution is stirred at 60° C. for 4 hours. The solution is concentrated and water is added to the residue. The solution is acidified by 12N HCl in an ice-bath. The precipitated white solid is collected by filtration and is dried under vacuum to afford the title product. : LCMS (ESMS): m/z 434.89 (M+H+).

reactant | (R)-2-[2,4-dioxo-1-(1,4,6-trimethyl-1H-indol-3-ylmethyl)-1,4-dihydro-2H-quinazolin-3-yl]-pentanoic acid methyl ester | 0.11 mmol, 50 mg | COC([C@@H](CCC)N1C(N(C2=CC=CC=C2C1=O)CC1=CN(C2=CC(=CC(=C12)C)C)C)=O)=O | C26H29N3O4
reactant | LiOH | 0.22 mmol, 5.4 mg | [Li+].[OH-]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
product | (R)-2-[2,4-Dioxo-1-(1,4,6-trimethyl-1H-indol-3-ylmethyl)-1,4-dihydro-2H-quinazolin-3-yl]-pentanoic acid | O=C1N(C2=CC=CC=C2C(N1[C@@H](C(=O)O)CCC)=O)CC1=CN(C2=CC(=CC(=C12)C)C)C | C25H27N3O4
